US09302989B2
N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting isobutyryl chloride for acetyl chloride and N-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.40 (s, 1H), 7.55-7.58 (m, 2H), 7.30-7.38 (m, 6H), 6.11-6.13 (bs, 1H), 4.76-4.77 (bs, 4H), 4.19-4.21 (m, 1H), 4.08-4.09 (m, 1H), 3.65-3.72 (m, 2H), 2.85-3.00 (m, 1H), 2.40-2.56 (m, 2H), 1.00-1.07 (m, 6H); MS (ESI(+)) m/e 390 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-isobutyryl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C(C)C)(=O)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C24H27N3O2
